US06593325B1
A slurry of 2-benzoyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester (1.00 g), benzyl bromide (1.88 ml) and silver carbonate (1.64 g) in toluene (50 ml) was stirred at room temperature in the dark under nitrogen for 3 days. More silver carbonate (0.82 g) was added and the slurry was stirred as before for 24 h. A final portion of silver carbonate (0.82 g) was added, and the mixture was stirred as before for 3 days. The mixture was filtered, and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with dichloromethane, yielding 2-benzoyl-6-benzyloxynicotinic acid methyl ester as a pale brown solid (1.14 g). 1H NMR (400 MHz, CDCl3) δ3.69 (3H, s), 5.39 (2H, s), 6.92 (1H, d, J=8.8 Hz), 7.30 (3H, m), 7.37 (2H, m), 7.45 (2H, t, J=7.7 Hz), 7.59 (1H, t, J=7.4 Hz), 7.78 (2H, d, J=7.8 Hz), 8.25 (1H, d, J=8.7 Hz); MS (ES+) m/e 348 [MH]+.

reactant | 2-benzoyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester | 1.00 g | COC(=O)C1=C(NC(C=C1)=O)C(C1=CC=CC=C1)=O | C14H11NO4
reactant | benzyl bromide | 1.88 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | silver carbonate | 1.64 g | C([O-])([O-])=O.[Ag+2]
catalyst | silver carbonate | 0.82 g | C([O-])([O-])=O.[Ag+2]
catalyst | silver carbonate | 0.82 g | C([O-])([O-])=O.[Ag+2]
product | 2-benzoyl-6-benzyloxynicotinic acid methyl ester | 1.14 g | COC(C1=C(N=C(C=C1)OCC1=CC=CC=C1)C(C1=CC=CC=C1)=O)=O | C21H17NO4
